US09328124B2
N-[(4aR,7aR)-6-[5-Fluoro-4-(1-hydroxy-1-methyl-ethyl)pyrimidin-2-yl]-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
N-[(4aR,7aR)-7a-pyrazin-2-yl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (231 mg, 0.680 mmol) is dissolved in 1,4-dioxane (4 mL). 2-(2-Chloro-5-fluoro-pyrimidin-4-yl)propan-2-ol (648.60 mg, 3.40 mmol) and diisopropylethylamine (653 μL, 3.74 mmol) are added. The reaction is heated at 110° C. for 6 hours then cooled to room temperature and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (330 mg, 98%). ES/MS (m/e): 494 (M+1).

reactant | N-[(4aR,7aR)-7a-pyrazin-2-yl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.680 mmol, 231 mg | N1=C(C=NC=C1)[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | C17H17N5OS
reactant | 2-(2-Chloro-5-fluoro-pyrimidin-4-yl)propan-2-ol | 3.40 mmol, 648.60 mg | ClC1=NC=C(C(=N1)C(C)(C)O)F | C7H8ClFN2O
reactant | diisopropylethylamine | 3.74 mmol, 653 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-[(4aR,7aR)-6-[5-Fluoro-4-(1-hydroxy-1-methyl-ethyl)pyrimidin-2-yl]-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 330 mg, 98% | FC=1C(=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=NC=CN=C1)C(C)(C)O | C24H24FN7O2S
